US08748613B2
Preparation of (3R)-1-((5-phenyl-1,2,4-oxadiazol-3-yl)methyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride (C21)
To a solution of (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate (100 mg, 0.30 mmol) in EtOAc (2 ml) and acetonitrile (1 ml), was added 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole (71.1 mg, 0.36 mmol). The reaction was stirred at room temperature for 30 hours and then the solvents were evaporated. The residue was triturated with EtOAc (10 ml) and the solid was collected by suction filtration to obtain the title compound (113 mg, 71% yield) as a yellow solid.

reactant | (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate | 0.30 mmol, 100 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H28N2O2
reactant | 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole | 0.36 mmol, 71.1 mg | ClCC1=NOC(=N1)C1=CC=CC=C1 | C9H7ClN2O
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | (3R)-1-((5-phenyl-1,2,4-oxadiazol-3-yl)methyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 113 mg, 71% yield | [Cl-].C1(=CC=CC=C1)C1=NC(=NO1)C[N+]12C[C@@H](C(CC1)CC2)OC(C(N2CCCCC2)C2=CC=CC=C2)=O | InChI=1S/C29H35N4O3.ClH/c34-29(27(23-10-4-1-5-11-23)32-16-8-3-9-17-32)35-25-20-33(18-14-22(25)15-19-33)21-26-30-28(36-31-26)24-12-6-2-7-13-24;/h1-2,4-7,10-13,22,25,27H,3,8-9,14-21H2;1H/q+1;/p-1/t22?,25-,27?,33?;/m0./s1
